US07902381B2
Step 3: (2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanoic acid (8a-1)
In a round-bottom flask, 7.11 g (29.6 mmoles) of methyl (2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanoate (7a-1) and 35.5 mL of THF are introduced. 6.21 g (0.148 mole) of LiOH.H2O dissolved in 35.5 mL of water is added. The mixture is stirred at 50° C. for 12 hours then concentrated under reduced pressure. The residue is taken up with water and the extract is taken up with toluene. The aqueous phase is acidified (pH=2) by adding 36% hydrochloric acid and then extracted with ethyl acetate. The combined organic phases are washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The title compound is obtained in the form of a white solid, (5 g, 22.1 mmoles) that can be recrystallized in isopropyl ether if desired.

reactant | methyl (2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanoate | 29.6 mmoles, 7.11 g | COC1=C(C=CC=C1)SC[C@H](C(=O)OC)C | C12H16O3S
reactant | THF | 35.5 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 0.148 mole, 6.21 g | O[Li].O
solvent | water | 35.5 mL | O | H2O
product | (2S)-3-[(2-methoxyphenyl)sulfanyl]-2-methylpropanoic acid | COC1=C(C=CC=C1)SC[C@H](C(=O)O)C | C11H14O3S
